US05731348
Part F: (2S, 4R)-4-Methyl Glutamic Acid
The Boc-protected diacid, (2S, 4R)-N-t-butoxycarbonyl- 4-methyl glutamic acid, was subjected to a mixture of trifluoroacetic acid:methylene chloride (40:60, 100 mL) for 3 hr at room temperature. The volatiles were removed in vacuo and the residue was azeotroped with toluene (50 mL). Water (150 mL) was added and the aqueous phase extracted with a 5% solution of trioctylamine in chloroform (3 x 200 mL). The combined organic phases were washed with water (50 mL) and the combined aqueous phases evaporated by being placed on a lyophilizer for 48 hr to give the product (4.6 g, 66% in two steps) as a white foam which was recrystallized in acetone and water. mp=169°-170° C., 1H NMR (200 MHz, D2O): δ 3.80 (dd, J=7.3, 7.3 Hz, 1H), 2.55 (m, 1H), 2.15 (ddd, J=14.7, 8.7, 6.6 Hz, 1H), 1.75 (ddd, J=14.6, 7.4, 5.4 Hz, 1H), 1.05 (d, J=7.0 Hz, 3H). Anal. Calculated for C6H11NO4 : C, 44.71; H, 6.88; N, 8.69. Found: C, 44.59; H, 6.85; N, 8.61.

reactant | (2S, 4R)-N-t-butoxycarbonyl- 4-methyl glutamic acid | C(C)(C)(C)OC(=O)N[C@@H](C[C@H](C(=O)O)C)C(=O)O | C11H19NO6
solvent | trifluoroacetic acid methylene chloride | 100 mL | FC(C(=O)O)(F)F.C(Cl)Cl
product | (2S, 4R)-4-Methyl Glutamic Acid | C[C@H](C[C@H](N)C(=O)O)C(=O)O | C6H11NO4
